US07799756B2
A solution of cyclosporin A (5.0 g, 4.16 mmol), acetic anhydride (3.92 mL, 41.6 mmol), pyridine (3.36 mL, 41.6 mmol), and DMAP (0.5 g, 4.2 mmol) in methylene chloride (20 mL) was stirred overnight at room temperature under N2 atmosphere. Saturated sodium bicarbonate solution (200 mL) was added to the solution and stirred for an additional 2 h. The mixture was extracted with ether, washed with 1 N HCl, neutralized with saturated sodium bicarbonate solution, washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford acetyl cyclosporin A (4.92 g, 95%) as a white solid, which was carried to the next step without further purification: 1H NMR (300 MHz, CDCl3) δ 8.57 (d, J=9.6 Hz, 1H), 8.04 (d, J=6.9 Hz, 1H), 7.51 (d, J=9.4 Hz, 1H), 7.47 (d, J=7.8 Hz, 1H), 5.67 (dd, J=11.0, 4.0 Hz, 1H), 5.60-5.44 (m, 2H), 5.39 (dd, J=11.7, 3.7 Hz, 1H), 5.32-5.13 (m, 4H), 5.06-4.93 (m, 2H), 4.85 (t, J=7.2 Hz, 1H), 4.77 (t, J=9.6 Hz, 1H), 4.65 (d, J=13.7 Hz, 1H), 4.41 (t, J=7.0 Hz, 1H), 3.46 (s, 3H), 3.26 (s, 3H), 3.24 (s, 3H), 3.21 (s, 3H), 3.10 (s, 3H), 2.68 (s, 3H), 2.66 (s, 3H), 2.50-2.35 (m, 1H), 2.25-1.80 (m, 6H), 2.08 (s, 3H), 2.01 (s, 3H), 1.75-1.55 (m, 6H), 1.45-0.75 (m, 55H); ESI MS m/z 1245 [C64H113N11O13+H]+.

reactant | cyclosporin A | 4.16 mmol, 5.0 g | CC[C@H]1C(=O)N(CC(=O)N([C@H](C(=O)N[C@H](C(=O)N([C@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N1)[C@@H]([C@H](C)C/C=C/C)O)C)C(C)C)C)CC(C)C)C)CC(C)C)C)C)C)CC(C)C)C)C(C)C)CC(C)C)C)C | C62H111N11O12
reactant | acetic anhydride | 41.6 mmol, 3.92 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 41.6 mmol, 3.36 mL | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
catalyst | DMAP | 4.2 mmol, 0.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | acetyl cyclosporin A | 4.92 g, 95% | CC[C@H]1C(=O)N(CC(=O)N([C@H](C(=O)N[C@H](C(=O)N([C@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N1)[C@@H]([C@H](C)C/C=C/C)OC(=O)C)C)C(C)C)C)CC(C)C)C)CC(C)C)C)C)C)CC(C)C)C)C(C)C)CC(C)C)C)C | C64H113N11O13
